US07705007B2
A solution of 4-hydroxy-2-tert-butyl-pyrimidine-5-carboxylic acid ethyl ester (3 g, 13.377 mmol, prepared in an analogous manner as described for the preparation of 2-ethyl-4-hydroxy-pyrimidine-5-carboxylic acid ethyl ester, Dostert, P. et al. Eur. J. Med. Chem. 1982, 17, 437-444) in dimethylformamide (10 mL) was added slowly to the suspension of sodium hydride (800 mg, 60% in mineral oil, Aldrich) in dimethylformamide cooled to 0° C. After the addition, the ice bath was removed and the reaction mixture was stirred at room temperature for 2 h. The reaction mixture was stirred at room temperature for 4 h then quenched with saturated solution of ammonium chloride. It was extracted with ethyl acetate (2×). The organic extracts were washed with brine (1×), dried over anhydrous sodium sulfate and concentrated. Purification of the crude residue by flash column chromatography (120 g of silica gel, eluting with a gradient of 5-60% ethyl acetate in hexane gave 4-ethoxy-2-tert-butyl-pyrimidine-5-carboxylic acid ethyl ester (1.12 g, 30%).

reactant | 4-hydroxy-2-tert-butyl-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)C(C)(C)C)O | C11H16N2O3
reactant | 2-ethyl-4-hydroxy-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)CC)O | C9H12N2O3
reactant | sodium hydride | 800 mg | [H-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-ethoxy-2-tert-butyl-pyrimidine-5-carboxylic acid ethyl ester | 1.12 g, 30% | C(C)OC(=O)C=1C(=NC(=NC1)C(C)(C)C)OCC | C13H20N2O3
